US05468882
N-(8-Methoxy-chroman-2-yl)methyl-cycloheptanecarboxamide
The title compound is prepared analogously to the instructions of Example XII from 2-aminomethyl-8-methoxychroman and cycloheptanecarbonyl chloride, and is further reacted directly.

reactant | 2-aminomethyl-8-methoxychroman | NCC1OC2=C(C=CC=C2CC1)OC | C11H15NO2
reactant | cycloheptanecarbonyl chloride | C1(CCCCCC1)C(=O)Cl | C8H13ClO
product | N-(8-Methoxy-chroman-2-yl)methyl-cycloheptanecarboxamide | COC=1C=CC=C2CCC(OC12)CNC(=O)C1CCCCCC1 | C19H27NO3
